US08022205B2
Methanesulfonic acid 2-(4-bromo-phenyl)-ethyl ester (1.39 g) prepared from 2-(4-bromo-phenyl)-ethanol and methanesulfonyl chloride, and Na2SO3 (816 mg) were reacted in ethanol/water (1/1), to obtain a crude product of 2-(4-bromo-phenyl)-ethanesulfonic acid sodium salt as a colorless plate-like crystal. Then, thionyl chloride (3 ml) was left to react in the presence of DMF (500 μl), to obtain 2-(4-bromo-phenyl)-ethanesulfonyl chloride, and further N-methylpiperazine (73 μl) was left to react in dichloromethane (2 ml) in the presence of triethylamine (54 μl), to obtain 1-[2-(4-bromo-phenyl)-ethanesulfonyl]-4-methyl-piperazine as a yellow solid (94 mg, 24%).

reactant | Methanesulfonic acid 2-(4-bromo-phenyl)-ethyl ester | 1.39 g | BrC1=CC=C(C=C1)CCOS(=O)(=O)C | C9H11BrO3S
reactant | 2-(4-bromo-phenyl)-ethanol | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | Na2SO3 | 816 mg | [O-]S(=O)[O-].[Na+].[Na+]
solvent | ethanol water | C(C)O.O
product | 2-(4-bromo-phenyl)-ethanesulfonic acid sodium salt | [Na+].BrC1=CC=C(C=C1)CCS(=O)(=O)[O-] | InChI=1S/C8H9BrO3S.Na/c9-8-3-1-7(2-4-8)5-6-13(10,11)12;/h1-4H,5-6H2,(H,10,11,12);/q;+1/p-1
